US09376449B2
To a mixture of 7-chloro-5-nitro-2,3-dihydro-1-benzofuran (7.40 g) and ethanol (300 mL) were added reduced iron (12.4 g) and concentrated hydrochloric acid (20.0 mL) under ice-cooling, followed by warming to room temperature and stirring overnight. This mixture was neutralized with a saturated aqueous sodium hydrogen carbonate solution and sodium hydrogen carbonate under ice-cooling, filtered through celite, and then extracted with ethyl acetate. The organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate, the insoluble materials were separated by filtration, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=80:20 to 60:40) to obtain 7-chloro-2,3-dihydro-1-benzofuran-5-amine (5.49 g) as a pale yellow solid.

reactant | 7-chloro-5-nitro-2,3-dihydro-1-benzofuran | 7.40 g | ClC1=CC(=CC=2CCOC21)[N+](=O)[O-] | C8H6ClNO3
reactant | hydrochloric acid | 20.0 mL | Cl | ClH
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | ethanol | 300 mL | C(C)O | C2H6O
product | 7-chloro-2,3-dihydro-1-benzofuran-5-amine | 5.49 g | ClC1=CC(=CC=2CCOC21)N | C8H8ClNO
